US05378690
48(a) Methyl N,N-diisobutylglycinate
Following a procedure similar to that described in Preparation 47(a) 5.17 g (40 mmole) of N,N-diisobutylamine and 3.06 g (20 mmole) of methyl bromoacetate were reacted together, to give 4.02 g of the title compound as a white powder.

reactant | N,N-diisobutylamine | C(C(C)C)NCC(C)C | C8H19N
reactant | methyl bromoacetate | 20 mmole, 3.06 g | BrCC(=O)OC | C3H5BrO2
product | Methyl N,N-diisobutylglycinate | 4.02 g | C(C(C)C)N(CC(=O)OC)CC(C)C | C11H23NO2
